US07030116B2
4-Morpholin-4-yl-N-[1-(oxazole-2-carbonyl)-3-phenyl-propyl]-4-oxo-2-(2-phenyl-cyclopropylmethyl)-butyrarnide (mixture of diastereoisomers)
It is similarly prepared according to general procedure given for example X above but using 4-Morpholin-4-yl-4-oxo-2-(2-phenyl-cyclopropylmethyl)-butyric acid and (S)-2-Amino-1-oxazol-2-yl-4-phenyl-butan-1-ol.

reactant | 4-Morpholin-4-yl-4-oxo-2-(2-phenyl-cyclopropylmethyl)-butyric acid | N1(CCOCC1)C(CC(C(=O)O)CC1C(C1)C1=CC=CC=C1)=O | C18H23NO4
reactant | (S)-2-Amino-1-oxazol-2-yl-4-phenyl-butan-1-ol | NC([C@H](O)C=1OC=CN1)CCC1=CC=CC=C1 | C13H16N2O2
product | 4-Morpholin-4-yl-N-[1-(oxazole-2-carbonyl)-3-phenyl-propyl]-4-oxo-2-(2-phenyl-cyclopropylmethyl)-butyrarnide | N1(CCOCC1)C(CC(C(=O)NC(CCC1=CC=CC=C1)C(=O)C=1OC=CN1)CC1C(C1)C1=CC=CC=C1)=O | C31H35N3O5
